US06919322B2
A mixture of 3-methoxybenzyl alcohol (1 mmol) and sodium hydride (1.5 mmol) in 5 mL DMF was stirred at rt for 1 h and then added via cannula to a solution of diethylphosphonomethyl triflate (1 mmol) in 5 mL of DMF and the resulting mixture stirred at rt for 16 h. Extraction and chromatography provided diethyl 3-methoxyphenylmethoxymethylphosphonate as an oil.

reactant | 3-methoxybenzyl alcohol | 1 mmol | COC=1C=C(CO)C=CC1 | C8H10O2
reactant | sodium hydride | 1.5 mmol | [H-].[Na+]
reactant | diethylphosphonomethyl triflate | 1 mmol | O(S(=O)(=O)C(F)(F)F)CP(=O)(OCC)OCC | C6H12F3O6PS
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | diethyl 3-methoxyphenylmethoxymethylphosphonate | COC=1C=C(C=CC1)COCP(OCC)(OCC)=O | C13H21O5P
